US08049015B2
[5-(2-Ethylaminomethyl-4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid ethyl ester, dihydrochloride and pyrazinecarboxylic acid were reacted as described in Example 8, Step 6 to provide [5-(2-{[N-ethyl-N-(pyrazine-2-carbonyl)-amino]-methyl}-4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid ethyl ester.

reactant | [5-(2-Ethylaminomethyl-4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid ethyl ester, dihydrochloride | Cl.Cl.C(C)OC(CC=1C=NC=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CNCC)=O
reactant | pyrazinecarboxylic acid | N1=C(C=NC=C1)C(=O)O | C5H4N2O2
product | [5-(2-{[N-ethyl-N-(pyrazine-2-carbonyl)-amino]-methyl}-4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid ethyl ester | C(C)OC(CC=1C=NC=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CN(C(=O)C1=NC=CN=C1)CC)=O | C24H23F3N4O3
